US07977344B2
2-(Tetrahydrofuran-2-yl)ethyl methanesulfonate
To an ice cooled stirring solution of 2-(tetrahydrofuran-2-yl)ethanol (1.9 g) and triethylamine (4.4 ml) in dry dichloromethane (30 ml) was added dropwise over 5 min methanesulphonyl chloride (1.59 ml). The mixture was allowed to warm slowly to ambient temperature over 16 h then washed with saturated sodium hydrogen carbonate. The aqueous layer was further extracted with dichloromethane and the combined extracts washed with brine, dried by passing through a phase separation cartridge and stripped to give the title compound as a light brown oil, yield 3.1 g.

reactant | 2-(tetrahydrofuran-2-yl)ethanol | 1.9 g | O1C(CCC1)CCO | C6H12O2
reactant | triethylamine | 4.4 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 1.59 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(Tetrahydrofuran-2-yl)ethyl methanesulfonate | CS(=O)(=O)OCCC1OCCC1 | C7H14O4S
